US09079866B2
Step A: 4′-Bromo-N-(tert-butyl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide
1-Bromo-2-fluoro-4-iodobenzene (117 mg, 0.389 mmol) and (2-(N-(tert-butyl)sulfamoyl)phenyl) boronic acid (100 mg, 0.389 mmol) were added to a 5 mL sealable vial equipped with a stir bar. 1,4-Dioxane (1 mL) and 2 M Na2CO3 (1 mL) solution were added. Argon was bubbled through the solvent while it was rapidly stirred for 10 min then Pd(dppf)Cl2.CH2Cl2 (14 mg, 0.019 mmol) was added. The mixture was then stirred for 15 hours at 80° Celsius under an argon atmosphere. The reaction was diluted with 2 mL of ethyl acetate and 2 mL of water and the aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic extracts were then dried with Na2SO4 and concentrated to dryness. The crude product was purified by FCC to give the title compound. 1H NMR (500 MHz, CDCl3) δ 8.20-8.15 (dd, J=7.9, 1.4, 1H), 7.64-7.59 (dd, J=8.2, 7.1, 1H), 7.60-7.55 (m, 1H), 7.54-7.49 (m, 1H), 7.31-7.27 (m, 2H), 7.21-7.16 (dd, J=8.5, 2.2, 1H), 3.65 (s, 1H), 1.07 (s, 9H).

reactant | 1-Bromo-2-fluoro-4-iodobenzene | 0.389 mmol, 117 mg | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl) boronic acid | 0.389 mmol, 100 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
reactant | Na2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 0.019 mmol, 14 mg | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | 1,4-Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4′-Bromo-N-(tert-butyl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide | BrC1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C16H17BrFNO2S
